US07601722B2
To a solution of methylamine in methanol (33% wt, 10 mL) was added methyl 2,2-difluoro-3-hydroxypropanoate (1.0 g, 7.1 mmol) and the mixture stirred at room temperature overnight. After evaporation the residue was recrystallized from diethyl ether/hexanes to afford 2,2-difluoro-3-hydroxy-N-methylpropanamide.

reactant | methylamine | CN | CH5N
reactant | methyl 2,2-difluoro-3-hydroxypropanoate | 7.1 mmol, 1.0 g | FC(C(=O)OC)(CO)F | C4H6F2O3
solvent | methanol | CO | CH4O
product | 2,2-difluoro-3-hydroxy-N-methylpropanamide | FC(C(=O)NC)(CO)F | C4H7F2NO2
